US07183276B2
To a mixture of 2-(methylsulfanyl)ethylamine (3.01 g) and tetrahydrofuran (30 mL) was added dropwise di-tert-butyl dicarbonate (8.16 g) with stirring under ice-cooling. After stirring at room temperature for 30 min, the reaction mixture was concentrated, diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and tert-butyl 2-(methylsulfanyl)ethylcarbamate (5.62 g, 89%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | 2-(methylsulfanyl)ethylamine | 3.01 g | CSCCN | C3H9NS
reactant | di-tert-butyl dicarbonate | 8.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-(methylsulfanyl)ethylcarbamate | 5.62 g, 89% | CSCCNC(OC(C)(C)C)=O | C8H17NO2S
